US20010021718A1
5-{(1R)4-Cyclohexyl-1-[2-(hydroxyamino)-2-oxoethyl]butyl}-N-(4-methoxybenzyl)-1,2,4-oxadiazole-3-carboxamide
A solution of (3R)-6-cyclohexyl-3-[3-(ethoxycarbonyl)-1 ,2,4-oxadiazol-5-yl]hexanoic acid (Preparation 4) (500 mg, 1.47 mmol) in ethanol (13 ml) was treated with a solution of 4-methoxybenzylamine (1.00 g, 7.35 mmol) in ethanol (2 ml) and the resulting solution was heated at 80° C. under a nitrogen atmosphere for 10 hours. The solvent was removed under reduced pressure and the residue was dissolved in hydrochloric acid (1M, 10 ml) then extracted with ethyl acetate (×2). The combined organic layers were dried over an hydrous magnesium sulphate, filtered and the solvent removed under reduced pressure. This residue (578 mg) was then dissolved in dichloromethane (15 ml), cooled to 0° C. and treated sequentially with N-methylmorpholine (160 μl, 1.45 mmol) and isobutyl chioroformate (190 μl, 1.47 mmol). This mixture was stirred at 0° under a nitrogen atmosphere for 1 hour, then treated with O-(trimethylsilyl)hydroxylamine (195 μl, 1.60 mmol) and stirring continued for 10 minutes at 0° then for 17 hours at room temperature. The mixture was then treated with trifluoroacetic acid:water (ml, 9:1) and the solution stirred for 30 minutes. The solvent was removed under reduced pressure and the residue azeotroped from toluene (×2). The residue was purified by HPLCa to afford the title compound as a foam (74 mg).

reactant | (3R)-6-cyclohexyl-3-[3-(ethoxycarbonyl)-1 ,2,4-oxadiazol-5-yl]hexanoic acid | 1.47 mmol, 500 mg | C1(CCCCC1)CCC[C@H](CC(=O)O)C1=NC(=NO1)C(=O)OCC | C17H26N2O5
reactant | 4-methoxybenzylamine | 7.35 mmol, 1.00 g | COC1=CC=C(CN)C=C1 | C8H11NO
reactant | N-methylmorpholine | 1.45 mmol, 160 μl | CN1CCOCC1 | C5H11NO
reactant | isobutyl chioroformate | 1.47 mmol, 190 μl | ClC(=O)OCC(C)C | C5H9ClO2
reactant | O-(trimethylsilyl)hydroxylamine | 1.60 mmol, 195 μl | C[Si](ON)(C)C | C3H11NOSi
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | ethanol | 13 ml | C(C)O | C2H6O
solvent | ethanol | 2 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 5-{(1R)4-Cyclohexyl-1-[2-(hydroxyamino)-2-oxoethyl]butyl}-N-(4-methoxybenzyl)-1,2,4-oxadiazole-3-carboxamide | 74 mg | C1(CCCCC1)CCC[C@H](CC(=O)NO)C1=NC(=NO1)C(=O)NCC1=CC=C(C=C1)OC | C23H32N4O5
